US03950329
To a solution of 0.843 g (1.7 mmole) of 2,2,2-trichloroethyl 3-hydroxymethyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide in 50 ml of acetone at 0° is added over the period of about 2 min. 0.450 ml of 8N CrO3 in H2SO3 and the mixture is stirred at 0° for 5 min., then poured into a mixture of 300 ml ethyl acetate - 300 ml water and the ethyl acetate layer washed with water, dried (MgSO4), and evaporated in vacuo. The residue when chromatographed on silica gel with CHCl3 gives 2,2,2-trichloroethyl 3-formyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide.

reactant | 2,2,2-trichloroethyl 3-hydroxymethyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide | 1.7 mmole, 0.843 g | OCC=1CS([C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)=O | C18H17Cl3N2O6S
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2,2,2-trichloroethyl 3-formyl-7-phenylacetamido-3-cephem-4-carboxylate-1-oxide | C(=O)C=1CS([C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)=O | C18H15Cl3N2O6S
